US05053070
In 100 ml of methanol, 5.2 g of 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde and 1.0 g of methoxyamine were dissolved. The solution was stirred at room temperature for 2 hours. After the methanol was distilled out under reduced pressure, the resulting residue was purified by silica gel chromatography (developer: n-hexane:ethyl acetate=10:1) to obtain 5.7 g of 0-methyl-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde as an oily substance.

reactant | 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde | 5.2 g | COC1=NC(=NC(=C1)OC)OC1=C(C=O)C=CC=C1 | C13H12N2O4
reactant | methoxyamine | 1.0 g | CON | CH5NO
solvent | methanol | 100 ml | CO | CH4O
product | 0-methyl-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde | 5.7 g | CC1(C(C=O)C=CC=C1)OC1=NC(=CC(=N1)OC)OC | C14H16N2O4
